US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(pyrid-3-yl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-3-yl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (0.54 g, 1.16 mmol), 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.95 g, 1.74 mmol), and N,N-diisopropylethylamine (0.81 mL, 4.64 mmol) in acetonitrile (16 mL). Heat to reflux. After 24 hour, evaporate in vacuo, dilute with dichloromethane, and extract with brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 6/1/0.5 methanol/ethyl acetate/concentrated aqueous ammonia to give the title compound: Rf=0.27 (silica gel, 6/1/0.5 methanol/ethyl acetate/concentrated aqueous ammonia).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-3-yl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.16 mmol, 0.54 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C=2C=NC=CC2)C=C(C1OC)OC | C22H28N2O7S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 1.74 mmol, 0.95 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
reactant | N,N-diisopropylethylamine | 4.64 mmol, 0.81 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(pyrid-3-yl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C=2C=NC=CC2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C37H48N6O5
